US06936608B2
4-Fluoro-3-(5-fluoropyridin-2-yl)phenylamine (1.2 g) was dissolved in 1,4-dioxane (4 ml) and 48% aqueous hydrobromic acid (30 ml). The solution was cooled to 0° C. A solution of sodium nitrite (478 mg) in water (6 ml) was added dropwise with stirring to maintain an internal temperature below 4° C. The mixture was then aged a further 1 h at 4° C. A solution of copper(I) bromide (2.58 g) in 48% aqueous hydrobromic acid (10 ml) was then added slowly to retain a reaction temperature below 5° C. The resulting mixture was then stirred at 5-10° C. for 1 h, ambient temperature for 0.5 h and then heated at 50° C. for 0.5 h. The mixture was then cooled to 4° C., and made basic by addition of 4 N aqueous sodium hydroxide (106 ml), followed by 30% aqueous ammonium hydroxide (40 ml). The mixture was extracted with ethyl acetate, the organic phase dried over anhydrous sodium sulfate, filtered and evaporated to dryness. The residue was chromatographed (silica gel, 70% CH2Cl2/isohexane) to afford 2-(5-bromo-2-fluorophenyl)-5-fluoropyridine: 1H NMR (400 MHz, DMSO) δ 8.74 (1H, dd, J 2, 1 Hz), 8.05 (1H, dd, J 7, 3 Hz), 7.90 (2H, m), 7.69 (1H, m), 7.38 (1H, dd, J 11, 9 Hz); MS (ES+) m/z 270, 272.

reactant | 4-Fluoro-3-(5-fluoropyridin-2-yl)phenylamine | 1.2 g | FC1=C(C=C(C=C1)N)C1=NC=C(C=C1)F | C11H8F2N2
reactant | sodium nitrite | 478 mg | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 4 N, 106 ml | [OH-].[Na+]
reactant | ammonium hydroxide | 40 ml | [OH-].[NH4+]
reactant | hydrobromic acid | 30 ml | Br | BrH
reactant | hydrobromic acid | 10 ml | Br | BrH
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | water | 6 ml | O | H2O
catalyst | copper(I) bromide | 2.58 g | [Cu]Br
product | 2-(5-bromo-2-fluorophenyl)-5-fluoropyridine | BrC=1C=CC(=C(C1)C1=NC=C(C=C1)F)F | C11H6BrF2N
